Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Elevated INR and Cr
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a very nice ___ year-old gentleman with DM 
(steroid induced), CKD stage II (creat 1.2), with ESLD 
secondarely to HCV s/p liver transplant ___ years ago, h/o ITP s/p 
splenectomy sent from PCP with acute renal failure and INR of 6. 
Patient states that he has been in his prior state of health 
until 2 weeks ago when he noted some productive cough, but he 
has been unable to spit sputum out. He denies any chills, fever, 
rigors, shortness of breath, muscle pains, arthralgias, 
rhinorrhea, odynophagia, lacrimation. He saw his nephew who was 
having a cold a few days prior. He has been taking his 
medications, his weight has been stable. He went to see his PCP 
on ___ and ___ found to have an INR of 5. His coumadin was 
held and today in re-check his INR was still elevated (6.2). 
Therefore, he was sent to the ER for further work up. He denies 
any antibtiotic intake recently.
In the ER his VS were T 97.2 F, BP 99/58, HR 68 BPM, RR 16, SpO2 
96% on RA. Throughout his admission his VS were stable and he 
vas very pleasant. His neurologic exam was normal. His INR was 
6.2 with increased PTT as well (69); TB 3.3, albumin 2.5 and 
creatinine of 2.3 from baseline of 1.2. Blood cultures were 
sent. His HCT was stable in recheck. Liver USG was unchaged from 
before. Liver fellow was consulted and suggested administration 
of vitamin K and ___ FFP units. His VS prior to transfer are: T 
97.1 F, HR 64 BPM, BP 127/64 mmHg, RR 17 X', 95% SpO2 in RA.
 
Past Medical History:
-ITP  
-SVT last episode approximately ___, medically managed at this  

time  
-Hepatitis C  
-ESLD s/p liver Tx ___, s/p revision ___ complicated with  

rejection and steroid use since ___ to present; also  
complicated with Hepatitis C recurrence and restarted peg  
interferon ___. Hep C possibly contracted from ___.  
-Thoracic compression fractures: ___  
-Cognitive disorders: h/o post hypoxic encephalopathy ___.  
-Depression /anxiety  
-Neutropenia and infections including c. diff x3, streptococcal  

septicemia, anal fistula  
-History of fistula in anus s/p Fistulectomy ___  
-Chronic pain especially rectal pain  
-Diabetes : steroid induced, managed at ___, recent  
HBA1C 5.1 % ( had received blood transfusions with splenectomy 
),  
insulin requirements decreased  
-S/p Appy  
-S/p tonsillectomy  
-Bilateral inguinal hernia  
-S/p hernia repair which has failed  
-S/p umbilical hernia repair and right inguinal hernia repair  
___  
-S/p ccy  
-Left sided hydronephrosis due to obstruction from splenomegaly, 
 
s/p left ureteral stent placement ___.  
-Secondary hyperparathyroidism due to CKD managed by Dr. ___  

at ___.  
-Splenectomy, distal pancreatectomy, c/w fistula, s/p spent and  

then removal ___  

 
Social History:
___
Family History:
Mother has DM2 and HTN. Uncle with cancer in his ___ (unknown 
site). Denies any family history of MI, sudden cardiac death, 
stroke and lung diseases has DM2 
 
 
Physical Exam:
VS T 98.5 F, BP 119/67 mmHg, HR 77 BPM, RR 18, 92% on RA.
.
GENERAL - well-appearing man in NAD, comfortable, appropriate, 
jaundiced (skin, mouth, conjuntiva)
HEENT - NC/AT, PERRLA, EOMI, sclerae icteric, MMM, OP clear
NECK - supple, no thyromegaly, no JVD, no carotid bruits
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - PMI non-displaced, RRR, SEM in tricuspid area ___, 
diamong-shaped in mid-systole; SEM in apex radiating towards 
axila ___, nl S1-S2, no S3 or S4.
ABDOMEN - NABS, soft/NT/ND, no masses or ___, no 
rebound/guarding. Presence of large abdominal hernia, reducible 
without signs of incarceration.
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, 
DPs), extremely swelling legs bilateraly +++/+++
SKIN - no rashes or lesions
LYMPH - no cervical, axillary, or inguinal LAD
NEUROLOGIC:
Mental status: Awake and alert, cooperative with exam, normal
affect.
Cranial Nerves:
Pupils equally round and reactive to light, 4 to 2 mm 
bilaterally. Visual fields are full to confrontation. Non 
papilledema on fundoscopic exam. Extraocular movements intact 
bilaterally, no nystagmus. Sensation intact V1- V3. Facial 
movement symmetric. Hearing decreased to finger rub bilaterally, 
L>R.
Palate elevation symmetrical. Sternocleidomastoid and trapezius 
normal bilaterally. Tongue midline, movements intact.
.
Cerebellum: Normal hands up & down; normal finger-nose, can walk 
in single line.
.
Motor:
Normal bulk bilaterally. Tone normal. Myoclonus present in both 
feet. No tremors. No pronator drift. RAMs normal in R hand.
Del Tri Bi WF WE FE FF IP H Q DF PF TE TF
R ___ 5 5
L ___ 5 5
.
Sensation: Intact to light touch, throughout. No extinction to
DSS
.
Reflexes:
Increased throughout (biceps, pectoralis, triceps, patelar, 
aquilean).
Toes downgoing bilaterally.
.
Coordination: good finger tapping, normal RAM on R. no intention
tremor. Intact HKS and foot tapping bilaterally in legs.
.
Gait: Pt able to get up easily by himself and then walked
normally. (-) Romberg. Narrow based, steady. Normal tandem.
PULSES:
Right: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
Left: Carotid 2+ Femoral 2+ Popliteal 2+ DP 2+ ___ 2+
.
 
Pertinent Results:
___ 05:50AM BLOOD WBC-12.6* RBC-2.86* Hgb-9.6* Hct-29.7* 
MCV-104* MCH-33.5* MCHC-32.2 RDW-15.3 Plt ___
___ 06:15AM BLOOD WBC-10.3 RBC-2.93* Hgb-9.5* Hct-29.9* 
MCV-102* MCH-32.6* MCHC-31.9 RDW-15.0 Plt ___
___ 12:05AM BLOOD WBC-13.0* RBC-3.08* Hgb-10.0* Hct-31.7* 
MCV-103* MCH-32.4* MCHC-31.4 RDW-15.0 Plt ___
___ 02:15PM BLOOD WBC-10.7 RBC-3.18* Hgb-10.3* Hct-32.8* 
MCV-103* MCH-32.3* MCHC-31.3 RDW-15.0 Plt ___
___ 09:50AM BLOOD WBC-13.5* RBC-2.98* Hgb-10.4* Hct-32.5* 
MCV-109* MCH-34.8* MCHC-31.9 RDW-15.5 Plt ___
___ 06:15AM BLOOD Neuts-56 Bands-0 ___ Monos-7 Eos-6* 
Baso-1 ___ Myelos-0
___ 02:15PM BLOOD Neuts-52 Bands-0 ___ Monos-7 Eos-4 
Baso-1 ___ Myelos-0
___ 06:15AM BLOOD Hypochr-2+ Anisocy-OCCASIONAL 
Poiklo-NORMAL Macrocy-2+ Microcy-OCCASIONAL Polychr-1+ 
Spheroc-OCCASIONAL Target-2+ Stipple-OCCASIONAL 
How-Jol-OCCASIONAL Pappenh-OCCASIONAL
___ 05:50AM BLOOD ___ PTT-40.3* ___
___ 06:15AM BLOOD ___ PTT-44.0* ___
___ 12:05AM BLOOD ___ PTT-64.8* ___
___ 02:15PM BLOOD ___ PTT-69.0* ___
___ 09:50AM BLOOD ___
___ 05:50AM BLOOD Glucose-106* UreaN-41* Creat-1.3* Na-140 
K-3.1* Cl-105 HCO3-25 AnGap-13
___ 06:15AM BLOOD Glucose-58* UreaN-47* Creat-1.7* Na-140 
K-3.4 Cl-104 HCO3-28 AnGap-11
___ 12:05AM BLOOD UreaN-51* Creat-2.3* K-3.6
___ 02:15PM BLOOD Glucose-99 UreaN-52* Creat-2.4* Na-138 
K-4.1 Cl-103 HCO3-23 AnGap-16
___ 09:50AM BLOOD Glucose-75
___ 09:50AM BLOOD UreaN-50* Creat-2.3* Na-132* K-3.7 Cl-98 
HCO3-23 AnGap-15
___ 05:50AM BLOOD TotBili-4.4*
___ 06:15AM BLOOD ALT-38 AST-54* LD(LDH)-156 AlkPhos-300* 
TotBili-3.2* DirBili-2.3* IndBili-0.9
___ 02:15PM BLOOD ALT-44* AST-68* AlkPhos-349* TotBili-3.3*
___ 09:50AM BLOOD ALT-43* AST-69* AlkPhos-333* TotBili-3.3* 
DirBili-2.5* IndBili-0.8
___ 05:50AM BLOOD Calcium-9.5 Phos-2.4* Mg-2.2
___ 06:15AM BLOOD Albumin-2.6* Calcium-9.2 Phos-3.4 Mg-1.9
___ 02:15PM BLOOD Albumin-2.6*
___ 09:50AM BLOOD Albumin-2.5* Phos-4.3 Mg-2.0
___ 11:21AM BLOOD tacroFK-9.0
___ 09:50AM BLOOD tacroFK-8.1
___ 08:06PM BLOOD Lactate-1.5
___ 11:17PM URINE Color-Amber Appear-Clear Sp ___
___ 04:09PM URINE Color-Yellow Appear-Clear Sp ___
___ 11:17PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-TR Bilirub-SM Urobiln-4* pH-5.0 Leuks-NEG
___ 04:09PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-1 pH-5.0 Leuks-NEG
___ 11:17PM URINE RBC-0 ___ Bacteri-NONE Yeast-NONE 
Epi-<1
___ 04:09PM URINE RBC-0 ___ Bacteri-FEW Yeast-NONE 
___ 04:09PM URINE ___ 04:09PM URINE Eos-NEGATIVE  
___ 01:35AM URINE Hours-RANDOM UreaN-353 Creat-34 Na-76
___ 01:35AM URINE Osmolal-325

___ 11:17 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

___ 5:30 pm BLOOD CULTURE      2 OF 2. 

   Blood Culture, Routine (Pending):

___ 7:30 pm BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending): 


___  ___  ___
Radiology ReportDUPLEX DOPP ABD/PELStudy Date of ___ 4:37 
___
 
___ ___ 4:37 ___
DUPLEX DOPP ABD/PEL Clip # ___  
Reason: eval for patency of portal vein/ascites
UNDERLYING MEDICAL CONDITION:
   ___ year old man with liver transplant, here feeling unwell
REASON FOR THIS EXAMINATION:
   eval for patency of portal vein/ascites
Wet Read: ___ ___ 5:44 ___
unchanged exam from ___, with completely thrombosed portal 
and splenic
veins, augmented arterial flow. no ascites.
Final Report
HISTORY: ___ male with liver transplantation, here 
feeling unwell,
here to assess for patency of portal vein and for ascites.
 
COMPARISON: Liver Doppler ultrasound, last performed on ___, 
and CTA
abdomen of ___.
 
LIVER ULTRASOUND WITH DOPPLER EXAMINATION: Again, the liver 
architecture is
slightly heterogeneous, but no focal liver lesion is seen. No 
biliary ductal
dilatation is noted, with the common duct measuring 6 mm. No 
ascites is seen
in the upper quadrants. The patient is status post splenectomy. 
Right upper
pole renal cyst is redemonstrated.
 
Doppler examination demonstrates again complete thrombosis of 
the splenic
vein, main portal vein, and right and left portal veins. The 
right, mid, and
left hepatic veins as well as IVC appear patent. Again augmented 
flow is
demonstrated in the hepatic artery.
 
IMPRESSIONS:
1. Unchanged exam, with complete thrombosis of the portal and 
splenic veins,
and augmented hepatic arterial flow.
2. Patent hepatic veins and hepatic artery.
3. No ascites.
 
The study and the report were reviewed by the staff radiologist.
 
___. ___. ___ ___ 8:50 ___
 Imaging Lab


___  54  ___
Radiology ReportCHEST (PA & LAT)Study Date of ___ 5:40 ___
 
___ ___ 5:40 ___
CHEST (PA & LAT) Clip # ___  
Reason: eval for PNA
UNDERLYING MEDICAL CONDITION:
   ___ yo M s/p liver transplant ___ years ago presents w/ 
increasing INR,
   creatinine, also w/ recent cough
REASON FOR THIS EXAMINATION:
   eval for PNA
Final Report
PA AND LATERAL CHEST, ___ AT 1740 HOURS.
 
HISTORY: Post-liver transplant ___ years ago with increasing 
INR and
creatinine. History of cough.
 
COMPARISON: Multiple priors, the most recent dated ___.
 
FINDINGS: Evaluation of the right hemidiaphragm and blunting of 
the left
costophrenic angle have been documented on multiple prior exams 
and is stable.
No pneumothorax is seen. Mild wedging of mid thoracic vertebral 
bodies are
again noted.
 
IMPRESSION: Relatively stable chest x-ray examination with 
chronic findings
as above. No acute pulmonary process. Effusion versus chronic 
pleural
thickening.
 
___. ___ ___ 8:51 ___
 Imaging Lab


___  54  ___
Radiology ReportDUPLEX DOPP ABD/PELStudy Date of ___ 
10:05 AM
 
___ 10:05 AM
RENAL U.S.; DUPLEX DOPP ABD/PEL Clip # ___  
Reason: please assess kidneys bilaterally and assess for 
bilateral r
UNDERLYING MEDICAL CONDITION:
   ___ year old man with ESLD and acute on chronic renal failure.
REASON FOR THIS EXAMINATION:
   please assess kidneys bilaterally and assess for bilateral 
renal artery
   patency.
Preliminary Report
Preliminary reports are not available for viewing.
 
___. ___
___. ___
 ___ Lab


___  ___  ___
Radiology ReportCT HEAD W/O CONTRASTStudy Date of ___ 
3:43 ___
 
___ 3:43 ___
CT HEAD W/O CONTRAST Clip # ___  
Reason: eval for acute intracranial process
UNDERLYING MEDICAL CONDITION:
   ___ year old man with cirrhosis and altered mental status
REASON FOR THIS EXAMINATION:
   eval for acute intracranial process
CONTRAINDICATIONS FOR IV CONTRAST:
   None.
Final Report
INDICATION: ___ male with cirrhosis and altered mental 
status.
 
TECHNIQUE: Multidetector helical CT scan of the head was 
obtained without the
administration of contrast.
 
COMPARISON: CT head dated ___ and CT head dated 
___.
 
FINDINGS: There is no evidence for acute hemorrhage, edema, mass 
effect, or
recent infarction. The gray-white matter differentiation is 
preserved. There
is prominence of the ventricles and sulci, unchanged from prior 
examination
and consistent with diffuse parenchymal atrophy. This is 
slightly more
prominent than would be expected for the patient's age, however, 
is unchanged
from ___. The visualized paranasal sinuses and mastoid air 
cells are
unremarkable. No osseous abnormality is identified.
 
IMPRESSION: No acute intracranial abnormality.
 
The study and the report were reviewed by the staff radiologist.
 
___. ___
___. ___: FRI ___ 6:46 ___
 Imaging Lab

 

 
Brief Hospital Course:
#. Increased INR - Patient with ESLD s/p liver transplant on 
coumadin for complete portal and splenic veins thrombosis, 
presented with an INR of 6.2. Reported decreased PO intake. His 
synthetic function seem to be at his baseline on admission with 
albumin of 2.6, bilirubin of 3.3, no acute liver process on RUQ 
U/S. Possibly due to vitamin K deficiency  coumadin effect. He 
received 5mg of vit K and 3 units of FFP on admission. Upon 
transfer to ___ 10 his INR was decreasing. On the day of 
discharge his INR was 1.4 and he was instructed not to take 
coumadin until he was seen at transplant clinic on ___.
.
#. Acute on chronic renal failure - Patient with known Stage II 
CKD, currently w/ increase in Cr up to 2.4 x 1 week but his UOP 
continued to be at baseline. His decreased to Cr 1.7 after 1L 
IVF. His ARF was  thought to be due to pre-renal azotemia 
because of dehydration and this was validated by his great 
response to hydration. His FeNa was 2.7% and FeUrea was 57% and 
the discrepancy between these values and pre-renal azotemia was 
thought to be due to the patient being on diuretics at home as 
these could account for the FeNa being high. His Cr was 1.3 on 
discharge which is baseline. 
.
#. Cough - Patient presented with 2 weeks of cough and unchanged 
CXR from basline. This was thought to be due to a viral URI and 
patient's condition improved while in the hospital. 
.
#. ESLD s/p transplant - Pt with elevated INR but no other signs 
of acute liver failure. His tacro level is whithin target range. 
RUQ U/S is unchanged w/ complete obstruction of portal and 
splenic veins. He was continued on his home dose medications.
.
#. SVT - Pt with h/o SVT, rate control with double nodal agents. 
Atenolol was switched to metoprolol initially for ease of dosing 
and ARF since atelolol is renally metabolized. Upon discharge he 
was switched back to his atenolol home dose. He had no issues 
with SVT during his hospitalization.
.
#. ITP - s/p splenectomy PLTs remained stable throughout 
hospitalization.
.
#. Primary hypogonadism - Patient had no issues. Testosterone 
was continued.
.
#. Depression - Patient denied any SI or thought of harming 
others. Rare zoloft s/e could be ARF and considering recent 
increase of dose this could have caused ARF. Zoloft was held 
initially and continued upon discharge.
.
#. DM - Thought to be steroid induced, currently diet 
controlled, no issues w/ hyper or hypoglycemia
.
#. Hyperparathyroidism - Secondary to CKD. Stable. Continued on 
home meds.
.
#. Adiction - Pt with h/o polysubstance abuse. Continued on home 
methadone.
.
#. Splenectomy - Pt s/p splenectomy at risk of infection with 
encapsulated organisms. Afebrile did well throughout admission.
 
Medications on Admission:
-Atenolol 50mg
-Diltiazem 180mg Qday
-Coumadin 1mg daily, held for last 2 days
-Lactulose 30ml TID
-Lamivudine 100mg daily
-Pograf 0.5mg BID
-Mthadone 45mg daily
-Calcitrolol 0.25mcg daily
-Vitamin D 50,000 units twice a week
-Pancrease enzymes 2 tabs 4 times a day with meals
-Peridex mouthwash
-Gabapentin 100mg BID
-Latnoprost eye gtt in right eye HS
-Oeprazole 20mg daily
-Prcocet PRN pain
-Rsedronate 35mg weekly
-Srtraline 50mg daily
-Tstosterone 1% gel, 1 packet per day
-Tazodone 150mg HS
-Ursodiol 300mg BID
-Lasix 60 mg Daily
.
 
Discharge Medications:
1. Atenolol 50 mg Tablet Sig: One (1) Tablet PO once a day.  
2. Cartia XT 180 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO once a day.  
3. Lamivudine 100 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Lasix 40 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*2*
5. Methadone 10 mg Tablet Sig: 4.5 Tablets PO DAILY (Daily).  
6. Calcitriol 0.25 mcg Capsule Sig: One (1) Capsule PO DAILY 
(Daily).  
7. Pancrease 20,000-4,500- 25,000 unit Capsule, Delayed 
Release(E.C.) Sig: Two (2) Capsule, Delayed Release(E.C.) PO 4 
times a day with meals.  
8. Gabapentin 100 mg Capsule Sig: One (1) Capsule PO twice a 
day.  
9. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS (at 
bedtime): right eye.  
10. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO twice a day.  
11. Risedronate 35 mg Tablet Sig: One (1) Tablet PO once a week. 
 
12. Lactulose 10 gram/15 mL Solution Sig: Thirty (30) ML PO 
three times a day.  
13. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
14. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.  
15. Percocet ___ mg Tablet Sig: One (1) Tablet PO once a day 
as needed for pain.  
16. Tacrolimus 0.5 mg Capsule Sig: One (1) Capsule PO Q12H 
(every 12 hours).  
17. Drisdol 50,000 unit Capsule Sig: One (1) Capsule PO twice a 
week.  
18. Sertraline 100 mg Tablet Sig: One (1) Tablet PO once a day.  

19. AndroGel 1 %(50 mg/5 gram) Gel in Packet Sig: One (1) packet 
Transdermal once a day.  
20. Peridex 0.12 % Mouthwash Sig: Fifteen (15) mL Mucous 
membrane twice a day as needed.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___:
-ESLD s/p liver Tx ___, s/p revision ___ complicated with 
rejection and steroid use since ___ to present; also 
complicated with Hepatitis C recurrence and restarted peg 
interferon ___. Hep C possibly contracted from tatoo ___.  
-Hepatitis C; recurrent after transplant

Secondary:  
-ITP  
-SVT last episode approximately ___, medically managed at this 
time  
-Osteoperosis with compression fracture of T6 and T7  
-Primary hypogonadism  
-2+ MR on echo ___  
-Cognitive disorders: h/o post hypoxic encephalopathy ___.  
-Depression /anxiety  
-Neutropenia and infections including c. diff x3, streptococcal 
septicemia, anal fistula  
-History of fistula in anus s/p Fistulectomy ___  
-Chronic pain especially rectal pain  
-Diabetes : steroid induced, managed at ___, recent 
HBA1C 5.1 % ( had received blood transfusions with splenectomy), 
insulin requirements decreased  
-S/p Appy  
-S/p tonsillectomy  
-Bilateral inguinal hernia  
-S/p hernia repair which has failed  
-S/p umbilical hernia repair and right inguinal hernia repair  
___  
-S/p ccy  
-Left sided hydronephrosis due to obstruction from splenomegaly, 
 
s/p left ureteral stent placement ___.  
-Secondary hyperparathyroidism due to CKD managed by Dr. ___ 
at ___.  
-Splenectomy, distal pancreatectomy, c/w fistula, s/p spent and 
then removal ___  

 
Discharge Condition:
good, creatinine and INR improved

 
Discharge Instructions:
You were seen at ___ for worsening renal function and elevated 
bleeding labs.  Your renal function improved with fluid and your 
elevated bleeding labs improved with stopping coumadin, getting 
plasma products, and getting vitamin K.  You should stay 
hydrated at home.  Please do not take your coumadin for now.  
Please follow-up in the liver transplant clinic on ___ 
___ to labs and to discuss what to do with your coumadin.

Your lasix was decreased to 40mg daily.
Do NOT take your coumadin unless told to do so by a physician.

No other changes were made to your medications.

Please adhere to a low salt diet, less than 2 grams daily.

Please call your PCP or return to the emergency department if 
you experience:
- confusion
- swelling in your legs or your abdomen
- fever greater than 100.5 degrees F
- reduced urination
- abdominal pain
 
Followup Instructions:
___